US07572809B2
Similar procedure as described in example 305 was used, starting from 4-chloro-benzenethiol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-chloro-phenylsulfanyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 367 (MH+).

reactant | 4-chloro-benzenethiol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | [1-(4-chloro-phenylsulfanyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=CC=C(C=C1)SC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C19H15ClN4S
